* ==============================================================
* CMOS INVERTER TUTORIAL WITH 10fF LOAD
* ngspice with pulse input + delay + power measurements
* ==============================================================

** 1. POWER SUPPLIES
Vdd vdd 0 DC 1.8
* Vdd: name of source
* vdd: positive node
* 0:   ground node  
* DC:  DC value type
* 1.8: voltage in Volts

** 2. INPUT PULSE SOURCE
Vin in 0 PULSE(0 1.8 0 0.1n 0.1n 50n 100n)
* Vin:  name of source
* in:   positive node connected to inverter input
* 0:    ground node
* PULSE(V1 V2 TD TR TF PW PER): pulse waveform
*   V1  = 0      : Initial voltage in Volts
*   V2  = 1.8    : Pulsed voltage in Volts  
*   TD  = 0      : Delay time before first pulse starts, in seconds
*   TR  = 0.1n   : Rise time 0->1, in seconds. n = nano
*   TF  = 0.1n   : Fall time 1->0, in seconds
*   PW  = 50n    : Pulse Width, time signal stays at V2, in seconds
*   PER = 100n   : Period of the pulse, in seconds. 100ns = 10MHz

** 3. TRANSISTORS
* Format: M<name> <drain> <gate> <source> <bulk> <model> L=<val> W=<val> [AD=<val> AS=<val> PD=<val> PS=<val>]
M1 out in vdd vdd pmos L=0.18u W=0.5u
* M1:    PMOS transistor name
* out:   Drain node = inverter output
* in:    Gate node = inverter input  
* vdd:   Source node = tied to Vdd
* vdd:   Bulk/Body node = tied to Vdd for PMOS
* pmos:  Model name
* L=0.18u: Channel Length = 0.18 um
* W=0.5u:  Channel Width  = 0.5 um

M2 out in 0 0 nmos L=0.18u W=0.25u
* M2:    NMOS transistor name
* out:   Drain node = inverter output
* in:    Gate node = inverter input
* 0:     Source node = tied to GND
* 0:     Bulk/Body node = tied to GND for NMOS
* nmos:  Model name  
* L=0.18u: Channel Length = 0.18 um
* W=0.25u: Channel Width  = 0.25 um. Smaller than PMOS because electrons are faster

** 4. LOAD CAPACITANCE
Cload out 0 10f
* Cload: name of capacitor
* out:   positive node connected to output
* 0:     negative node connected to ground
* 10f:   Capacitance value = 10 fF = 10e-15 Farads

** 5. MOSFET MODELS - LEVEL 1 SIMPLE MODEL
.model nmos nmos level=1 vto=0.4 kp=120u lambda=0.06
* .model: defines a model
* nmos:  model name to reference above
* nmos:  model type
* level=1: Shichman-Hodges model. Simplest, good for hand calc
* vto=0.4:   Threshold voltage Vth in Volts
* kp=120u:   Transconductance parameter u_n*Cox in A/V^2
* lambda=0.06: Channel length modulation in 1/V

.model pmos pmos level=1 vto=-0.4 kp=40u lambda=0.06
* vto=-0.4:  Negative threshold for PMOS
* kp=40u:    Lower mobility for holes
* lambda=0.06: Same channel length modulation

** 6. SIMULATION COMMANDS
.tran 0.05n 200n
* .tran: Transient analysis
* 0.05n: Timestep = 0.05 ns. Must be << rise time for accuracy
* 200n:  Stop time = 200 ns. Simulates 2 full periods

** 7. MEASUREMENT COMMANDS
* Format: .measure tran <result_name> <type> <args>
* 'tran' means measure after transient sim

* DELAY MEASUREMENTS: 50% Vdd crossing = 0.9V for 1.8V supply
.measure tran tphl trig v(in) val=0.9 rise=1 targ v(out) val=0.9 fall=1
* tphl:  name of result = tPHL High to Low delay
* trig:  Trigger condition to start timer
*   v(in):  monitor input voltage
*   val=0.9: when it crosses 0.9V
*   rise=1:  on the 1st rising edge
* targ:  Target condition to stop timer
*   v(out): monitor output voltage
*   val=0.9: when it crosses 0.9V  
*   fall=1: on the 1st falling edge

.measure tran tplh trig v(in) val=0.9 fall=1 targ v(out) val=0.9 rise=1
* tplh: tPLH Low to High delay. Opposite edges of tphl

.measure tran tpd param='(tphl+tplh)/2'
* tpd: Average propagation delay
* param: calculate from previous measurements

* SLEW RATE MEASUREMENTS: 20% to 80% points
.measure tran trise trig v(out) val=0.36 rise=1 targ v(out) val=1.44 rise=1
* trise: Output rise time
* 0.36 = 20% of 1.8V, 1.44 = 80% of 1.8V

.measure tran tfall trig v(out) val=1.44 fall=1 targ v(out) val=0.36 fall=1
* tfall: Output fall time

* POWER MEASUREMENT
.measure tran pavg avg p(vdd) from=50n to=150n
* pavg: Average power
* avg:  take average
* p(vdd): instantaneous power from Vdd source = V * I
* from=50n to=150n: only average over 1 full period to avoid startup

** 8. SAVE NODES FOR PLOTTING
.save v(in) v(out) i(vdd)
* .save: save these for plot after sim
* v(in):  input voltage waveform
* v(out): output voltage waveform  
* i(vdd): current from supply, used for power

.end
* .end: end of netlist
